US05585378
5-(1-Methylethyl)-1H-indole-2,3-dione
4-(1-Methylethyl)-aniline (6.75 g) was dissolved in water (30 ml) containing concentrated hydrochloric acid (4.4 ml). Hydroxylamine hydrochloride (16.9 g) in water (48 ml) and sodium sulphate decahydrate (100 g) in water (120 ml) were added, followed by chloral hydrate (16.5 g) in ethanol (180 ml). The reaction mixture was heated under reflux for 3 hours, then poured into water. The solid isonitroso-acetanilide intermediate was collected by filtration, washed and dried. This material was cooled in an ice-salt bath and concentrated sulphuric acid (48 ml) was added dropwise with stirring. After addition was complete the mixture was warmed to 80° C. for 20 minutes and then poured onto crushed ice. The resulting red solid was collected by filtration, washed, dried and then recrystallised from toluene-light petroleum to give the title compound, m.p. 127°-129° C.

reactant | 4-(1-Methylethyl)-aniline | 6.75 g | CC(C)C1=CC=C(N)C=C1 | C9H13N
reactant | hydrochloric acid | 4.4 ml | Cl | ClH
reactant | Hydroxylamine hydrochloride | 16.9 g | Cl.NO
reactant | sodium sulphate decahydrate | 100 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloral hydrate | 16.5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | water | 30 ml | O | H2O
solvent | water | 48 ml | O | H2O
solvent | water | 120 ml | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 5-(1-Methylethyl)-1H-indole-2,3-dione | CC(C)C=1C=C2C(C(NC2=CC1)=O)=O | C11H11NO2
